US07745477B2
a) Preparation of 6-methyl-2-trifluoromethyl-pyrimidine-4-carboxylic acid ethyl ester
2.241 g (20 mmol) of 2,2,2-trifluoro-acetamidine were dissolved in 80 ml ethanol and treated with 3.163 g (20 mmol) of 2,4-dioxo-pentanoic acid ethyl ester. The resulting solution was cooled to 0-5° C. and treated with 120 ml of HCl-saturated ethanol. The reaction mixture was allowed to warm-up to RT and stirred for additional 3 hours. The mixture was then added dropwise under cooling to 800 ml saturated NaHCO3 solution. The resulting mixture was then extracted twice with 300 ml DCM and the combined organic phases were dried over magnesium sulfate, filtered and concentrated in vacuo to yield 3.1 g of a yellow oil. This residue was then purified by silicagel chromatography (eluent:heptane/ethyl acetate 100:0 to 30:70) leading to a colorless oil which crystallized spontaneously, leading to 1.3 g of 6-methyl-2-trifluoromethyl-pyrimidine-4-carboxylic acid ethyl ester.

reactant | 2,2,2-trifluoro-acetamidine | 20 mmol, 2.241 g | FC(C(=N)N)(F)F | C2H3F3N2
reactant | 2,4-dioxo-pentanoic acid ethyl ester | 20 mmol, 3.163 g | C(C)OC(C(CC(C)=O)=O)=O | C7H10O4
reactant | HCl | 120 ml | Cl | ClH
reactant | NaHCO3 | 800 ml | C(=O)(O)[O-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 6-methyl-2-trifluoromethyl-pyrimidine-4-carboxylic acid ethyl ester | 3.1 g | C(C)OC(=O)C1=NC(=NC(=C1)C)C(F)(F)F | C9H9F3N2O2
